US05863903
(3R,4R,5R)-3-Benzyloxy-4-hydroxy-5-hydroxymethylpiperidine:
To a solution of 4-O-benzyl-2-deoxy-2-C-hydroxymethyl-D-xylo-pentodialdose (1.77 g) in ethanol (40 ml), 0.29M NH3 in ethanol (162 ml) and 5% palladium on charcoal (300 mg) was added. The mixture was hydrogenated at 500 Psi at 20° C. for 15 hours. The reaction mixture was filtrated and concentrated. The residue (1.85 g) was flash chromatographed using ethanol/NH4OH (25% aqueous)/trimethylamine (122:2:1) as eluent giving the product as a colourless sirup (getting coloured after storing) in 78% yield. 13C-NMR (62.9 MHz, D2O): δ138.1, 128.1, 127.3 (Ph); 80.6 (C-3), 74.9 (C-4); 71.8 (OCH2Ph); 62.5 (C-5'); 48.0 (C-2); 46.8 (C-6); 45.0 ppm (C-5). 1H-NMR (500 MHz, D2O): δ7.3 (s, 5H, Ph); 4.65, 4.51 (2 d, 2H, OCH2Ph, Jgem =12 Hz); 3.66 (dd, 1H, H-5a', J5a',5b' =10 Hz, J5',5 =5.5); 3.57 (dd, 1H, H-5'b, J5a', 5b'=10 Hz, J5b',5 =4.5); 3.41 (dd, 1H, H-4, J3,4 =11 Hz, J4,5 =9 Hz); 3.3 (broad, N--H); 3.27 (dd, 1H, H-3, J3,2zx =11 Hz, J3,2eq =4 Hz); 3.22 (dd, 1H, H-2eq, J2eq,2ax =11, J2eq,3 =4 Hz); 2.97 (dd, 1H, H-6 eq, J6eq,6ax =12 Hz, J6eq,5 =4 Hz); 2.38 (t, 1H, H-2ax, J2ax,2eq =J2ax,3=11 Hz); 2.31 (t, 1H, H-6ax, J6ax,6eq=J6ax,5 =12 Hz); 1.80 ppm (m, 1H, H-5).

reactant | 4-O-benzyl-2-deoxy-2-C-hydroxymethyl-D-xylo-pentodialdose | 1.77 g | C(C1=CC=CC=C1)O[C@@H]([C@@H]([C@H](C=O)CO)O)C=O | C13H16O5
reactant | Psi | OCC1(O)[C@H](O)[C@H](O)[C@H](O)CO1 | C6H12O6
reactant | NH3 | 0.29M | N | H3N
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethanol | 162 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 300 mg | [Pd] | Pd
product | (3R,4R,5R)-3-Benzyloxy-4-hydroxy-5-hydroxymethylpiperidine | 78% yield | C(C1=CC=CC=C1)O[C@@H]1CNC[C@@H]([C@H]1O)CO | C13H19NO3
